US08293903B2
A solution of methyl (1S,4S)-1-(2,2-difluoroethyl)-4-(2,5-dimethyl-1H-pyrrol-1-yl)cyclopent-2-ene-1-carboxylate (7.54 g, 26.6 mmol) in methanol (60 ml) was treated with 2.5N NaOH (15 ml, 37.5 mmol) and stirred at room temperature for 22 hours. The methanol was removed under reduced pressure and the residue partitioned between diethyl ether and water. The layers were separated and the aqueous was acidified with 4N HCl, extracted with ethyl acetate, washed with brine, dried over MgSO4, and concentrated under reduced pressure to give (1S,4S)-1-(2,2-difluoroethyl)-4-(2,5-dimethyl-1H-pyrrol-1-yl)cyclopent-2-ene-1-carboxylic acid as a brown oil (6.59 g, 92%). 1H NMR (400 MHz, CDCl3) δ ppm 6.12-6.09 (1H), 6.07-6.05 (0.25H), 5.99-5.96 (1H), 5.93-5.91 (0.5H), 5.79-5.76 (0.25H), 5.74 (2H), 5.38-5.32 (1H), 2.54-2.46 (2H), 2.43-2.25 (2H), 2.20 (6H).

reactant | methyl (1S,4S)-1-(2,2-difluoroethyl)-4-(2,5-dimethyl-1H-pyrrol-1-yl)cyclopent-2-ene-1-carboxylate | 26.6 mmol, 7.54 g | FC(C[C@@]1(C=C[C@H](C1)N1C(=CC=C1C)C)C(=O)OC)F | C15H19F2NO2
reactant | NaOH | 37.5 mmol, 2.5N, 15 ml | [OH-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | (1S,4S)-1-(2,2-difluoroethyl)-4-(2,5-dimethyl-1H-pyrrol-1-yl)cyclopent-2-ene-1-carboxylic acid | 6.59 g, 92% | FC(C[C@@]1(C=C[C@H](C1)N1C(=CC=C1C)C)C(=O)O)F | C14H17F2NO2
